US06492403B1
99 mg (0.400 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was dissolved in 25 mL of reagent grade acetone. 2-bromo-3′-Bromo acetophenone (0.4 mmol; 111 mg) was added and the solution was allowed to reflux for 3 h. The solution was allowed to cool and a solid was filtered and dissolved in 5 mL of hot tetrahydrofuran (THF), (Aldrich Chemical Co.) and purified on a 1 mm silica prep plate eluting with 20% ethyl acetate/hexane and dried in vacuo to afford 66 mg (40% yield) of methyl 4-[4-(3-bromophenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.400 mmol, 99 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-bromo-3′-Bromo acetophenone | 0.4 mmol, 111 mg | BrCC(=O)C1=CC(=CC=C1)Br | C8H6Br2O
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(3-bromophenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 66 mg, 40% yield | BrC=1C=C(C=CC1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C16H12BrNOS3
